US04386073
4.5 g (13.7 mmoles) of BOC-Nva-Ile-NH2 are suspended in 20 ml of ethyl acetate, and 12 ml of a 6 n hydrochloric acid solution in ethyl acetate are added to the suspension. After one hour of standing the reaction mixture is diluted with ether, and the separated precipitate is filtered off. The resulting 3.6 g of crude product are recrystallized from a mixture of methanol and ether to obtain 3.5 g (96%) of H-Nva-Ile-NH2.HCl; m.p.: 254°-255° C., Rf5 =0.45, [α]D25 =+3.8° (c=1%, in methanol).

reactant | BOC-Nva-Ile-NH2 | 13.7 mmoles, 4.5 g | N([C@@H](CCC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N)C(=O)OC(C)(C)C | C16H31N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | H-Nva-Ile-NH2.HCl | 3.5 g, 96% | N[C@@H](CCC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N.Cl | InChI=1S/C11H23N3O2.ClH/c1-4-6-8(12)11(16)14-9(10(13)15)7(3)5-2;/h7-9H,4-6,12H2,1-3H3,(H2,13,15)(H,14,16);1H/t7-,8-,9-;/m0./s1
